US05597826
7-Hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene
10% Palladium on carbon (1.16 g) and 7-hydroxy-1-(4-methyl-1-piperazinyl)-2,3-dihydronaphthalene (1.48 g, 6.06 mmol) were slurried in toluene (100 mL) and refluxed 16.5 h. The mixture was cooled, filtered, and concentrated. The product was purified by flash chromatography on silica gel (1×6 inches). Elution with 50% ethyl acetate/hexane followed by 100% ethyl acetate gave 0.51 g (34%) of the title product as a light pink foam. A sample was recrystallized from ether to give a cream colored solid for analysis: mp 184°-185° C. Analysis calculated for C15H18N2O: C, 74.35; H, 7.49; N, 11.56. Found: C, 74.05; H, 7.03; N, 11.42.

reactant | 7-hydroxy-1-(4-methyl-1-piperazinyl)-2,3-dihydronaphthalene | 6.06 mmol, 1.48 g | OC=1C=CC2=CCCC(=C2C1)N1CCN(CC1)C | C15H20N2O
catalyst | Palladium on carbon | 1.16 g | [Pd] | Pd
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene | 0.51 g, 34% | OC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H18N2O
